US09284319B2
{(2S)-1-[3-(1-Benzofuran-2-yl)imidazo[1,2-b]pyridazin-6-yl]pyrrolidin-2-yl}methanol
To a mixture of 40.5 mg (0.15 mmol) 3-(1-benzofur-2-yl)-6-chloroimidazo[1,2-b]pyridazine and 25 mg (0.195 mmol) diisopropylethylamine in 1 mL of 1-butanol were added 21 mg (0.22 mmol) (2S)-pyrrolidin-2-ylmethanol in 0.3 mL NMP. The mixture is stirred at 120° C. for 8 h. 16 mg (0.16 mmol) (2S)-pyrrolidin-2-ylmethanol in 0.2 mL NMP were added and shaking at 120° C. was continued for 8 h. Again, 16 mg (0.16 mmol) (2S)-pyrrolidin-2-ylmethanol in 0.2 mL NMP were added and shaking at 120° C. was continued for 8 h.

reactant | 3-(1-benzofur-2-yl)-6-chloroimidazo[1,2-b]pyridazine | 0.15 mmol, 40.5 mg | O1C(=CC2=C1C=CC=C2)C2=CN=C1N2N=C(C=C1)Cl | C14H8ClN3O
reactant | diisopropylethylamine | 0.195 mmol, 25 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S)-pyrrolidin-2-ylmethanol | 0.22 mmol, 21 mg | N1[C@@H](CCC1)CO | C5H11NO
reactant | (2S)-pyrrolidin-2-ylmethanol | 0.16 mmol, 16 mg | N1[C@@H](CCC1)CO | C5H11NO
reactant | (2S)-pyrrolidin-2-ylmethanol | 0.16 mmol, 16 mg | N1[C@@H](CCC1)CO | C5H11NO
solvent | 1-butanol | 1 mL | C(CCC)O | C4H10O
solvent | NMP | 0.3 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
product | {(2S)-1-[3-(1-Benzofuran-2-yl)imidazo[1,2-b]pyridazin-6-yl]pyrrolidin-2-yl}methanol | O1C(=CC2=C1C=CC=C2)C2=CN=C1N2N=C(C=C1)N1[C@@H](CCC1)CO | C19H18N4O2
